US04086221
H-Ser(Bzl)-OH (11.7 g.) was dissolved in water (50 ml.) and sodium bicarbonate (10.1 g.) and dioxane (10 ml.) added thereto. BOC-Leu-OSU (16.4 g.) in dioxane (15 ml.) and DMF (5 ml.) were then added. After overnight stirring, the pH of the reaction mixture was adjusted to pH 7, and the mixture concentrated in vacuo to remove organic solvent. The aqueous layer was shaken with ethyl acetate (100 ml.) and the organic layer was washed twice with 1 N HCl and water. The organic layer was dried with anhydrous magnesium sulfate, concentrated in vacuo and the residue was twice recrystallized from ethyl acetate - n-hexane to obtain BOC-Leu-Ser(Bzl)-OH (16.1 g., Yield: 78.8%, m.p.: 82° - 86° C.).

reactant | H-Ser(Bzl)-OH | 11.7 g | N[C@@H](COCC1=CC=CC=C1)C(=O)O | C10H13NO3
reactant | sodium bicarbonate | 10.1 g | C([O-])(O)=O.[Na+]
reactant | BOC-Leu-OSU | 16.4 g | CC(C)C[C@@H](C(=O)ON1C(=O)CCC1=O)NC(=O)OC(C)(C)C | C15H24N2O6
solvent | water | 50 ml | O | H2O
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | BOC-Leu-Ser(Bzl)-OH | 16.1 g, Yield: 78.8% | N([C@@H](CC(C)C)C(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C21H32N2O6
